Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want advice to figure out how to cope better with my 
problems."
 
Major Surgical or Invasive Procedure:
none.
 
History of Present Illness:
This is an ___ yo F ___ yr ___ student with PPH of 
depression/anxiety, hx of prior self-injurious cutting behavior 
and PMH of migraines, presenting
to ___ ___ after overdosing on ___ tablets of Zoloft 25 mg 
medication.  

On interview in the ___ on ___, pt describes that she had a 
difficult exam.  The night before she studied until 4AM, slept 
through some classes to catch up on sleep, felt not confident 
and ill-prepared for the exam.  After the exam, she heard other 
peers talking about how easy the exam was, then suddenly felt 
more sad and overwhelmed.  She had catastrophic thoughts about 
having failed the test, that she didn't want to go to class, and 
was crying more intensely.  She then had thoughts that she 
wouldn't want to go back to her room because she would probably 
take too many Zoloft if she did.  At this time she describes 
that she was suddenly not feeling anything.  She had brief 
thoughts
about self-harming by cutting superficially (has hx of prior 
cutting) but then thought this would not help her current 
situation.  She went home to her ___, took a handful of pills 
(between 10 and 20 of Zoloft 25 mg), briefly cleaned her room 
and her bed to make space, and wrote a goodbye note to no one in
particular (states in past when had previously had suicidal 
thoughts writing notes like this previously made her think of 
who she loved and previously worked as a ___).  

She then ingested the handful of Zoloft medication.  When asked 
about intent, she states she did not want to die, but also did 
not want to live, without specifying further.  She spoke to a 
friend in her ___, gave her a hug saying this would be the last 
time she would be talking on this earth.  Her friend was 
concerned, and ___ pt after she walked away.  Then the pt 
realized someone
else cared about her, tried to throw up medications and 
couldn't, and reports regreted this happened.  She called her 
friend and asked to go to ___.  From 
___, 911 was called. 

Pt described she had first period of depression for a few months 
in ___ grade.  Since then she described would have a few days 
at a time of worsening depressed mood, unable to specify how 
frequent these periods have been happening in the past ___ yrs. 
Recently, stated prior week had a few days of feeling more 
depressed, was more depressed this past weekend.  She then had a
few days of feeling better with her mood, then after this exam 
today she suddenly was much more depressed and overwhelmed 
before overdose occurred this past afternoon.  She is recently 
sleeping 7 hrs/nt, feels able to keep up with interests, is 
eating a little more recently, and concentration is decreased 
recently.  Denied SI at current time, but pt had difficulty 
answering when
asked if this was a suicide attempt on day of admission.  Denied 
HI.  

She denied any current manic symptoms, including elevated mood, 
reduced sleep with increased energy, racing thoughts, increased 
goal-directed/risky behaviors, or pressured speech.  She stated 
___ years ago she had one episode previously of a few days of 
not needing as much sleep, doing more activities than usual like 
putting on more make up or buying more things than usual but not
significantly so per pt, and denying fast speech or racing 
thoughts at that time.  She denied current or previous psychotic 
symptoms including auditory or visual hallucinations, paranoid 
delusions, or grandiose delusions.  She stated had one panic 
attack this past week, including a few minutes of increased
anxiety, racing thoughts, feeling out of control, lightheaded, 
with racing heart, and difficulty breathing.  She stated gets a 
panic attack about once every few months typically.  She stated 
otherwise doesn't typically call herself a worrier at baseline.  
Denies hx obsessions or compulsions.  Denies nightmares or 
flashbacks.  Denied restricting or purging behaviors.

 
Past Medical History:
- Depression: Pt describes she had first period of depression 
for a few months in ___ grade.  Since then she describes would 
have a few days at a time of worsening depressed mood, unable to 
specify how frequent these periods have been happening in the 
past ___ yrs. 
- Previous migraines
- Denies past head injuries or seizures.
 
Social History:
___
Family History:
Per Dr. ___ Consult note, reviewed 
with
patient, and updated as appropriate:
- Mother-depression, OCD, binging behaviors.
- Maternal grandmother depression.
- Maternal aunt-depression.
- Denies fhx of suicide attempts or substance abuse. 
 
Physical Exam:
Admission Physical Exam:

Vital Signs:
- T98.0, BP 110/75, HR 95, RR 16, SpO2 96%RA

GENERAL
- HEENT: 
     - normocephalic, atraumatic
     - moist mucous membranes, oropharynx clear, supple neck
     - no scleral icterus
- Cardiovascular: 
     - regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
     - distal pulses ___ throughout
- Pulmonary: 
     - no increased work of breathing
     - lungs clear to auscultation bilaterally
     - no wheezes/rhonchi/rales
- Abdominal: 
     - non-distended, bowel sounds normoactive
     - no tenderness to palpation in all quadrants
     - no guarding, no rebound tenderness
- Extremities: 
     - warm and well-perfused
     - no edema of the limbs
- Skin: 
     - no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: 
     - no deficits to fine touch throughout
- DTRs: 
     - 2 and symmetrical throughout
- Coordination: 
     - normal on finger to nose test, no intention tremor noted
- Gait: 
     - good initiation
     - initially with narrow-based, normal stride and arm swing
when seen by nursing, but after interview with me, patient
notably dragging feet on floor taking small steps stating she
feels "legs feel like jello"
     - able to walk in tandem without difficulty
     - Romberg absent

COGNITION 
- Wakefulness/alertness: 
     - awake and alert
- Attention: 
     - MOYb with 0 errors, EARTH backwards without errors
- Orientation: 
     - oriented to person, time (___), place (___),
situation
- Executive function (go-no go, Luria, trails, FAS): 
     - not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - ___ with categorical cues
     - ___ with multi choice
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 2 presidents (___, ___, ___
     - ___ play: Hamlet
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = Don't assume what you
know about a person by looking at them
     - bicycle/train: transportation
- Visuospatial: 
     - not assessed
- Language: 
     - fluent ___ speaker, no paraphasic errors, appropriate
to conversation

MENTAL STATUS
- Appearance: 
     - ___ year old ___ girl appearing stated age,
hair tied up in bun, wearing hospital gown, slightly malodorous,
overall fair grooming, not in acute distress
- Behavior: 
     - sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
- Attitude: 
     - cooperative, engaged, friendly
- Mood: 
     - "anxious"
- Affect: 
     - mood-congruent, mildly anxious appearing but overall
euthymic, reactive, shy smiles and laughter during interview
(topic appropriate), full range
- Speech: 
     - normal rate, volume, and prosody
- Thought process: 
     - linear, coherent, goal-oriented, no loose associations
- Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: 
     - limited
- Judgment: 
     - poor

Discharge Physical Exam:
Vital Signs:
T 98.0, BP 111/71, HR 80, RR 16, SpO2 99%RA

Mental Status:
- Appearance: Woman appearing her stated age, moderately
well groomed, wearing a sweatshirt, scrub pants, and holding a
stuffed squid during the entire interview.  
- Behavior: ___ in a chair, appropriate eye contact, no
psychomotor agitation or retardation.
- Attitude: Friendly, cooperative and engaged
- Mood: "good"
- Affect: Mood-congruent, much improved, brighter, hopeful,
reactive
- Speech: Normal rate, tone, and volume. 
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content: Denies active SI. Denies HI. Denies AVH,
not appearing to be attending to internal stimuli
- Insight: fair
- Judgment: fair

Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: Not formally assessed but attentive to interview
- Orientation: Oriented to person, time, place, situation
- Executive function not formally assessed
- Memory: Not formally assessed but intact to interview
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 03:15PM URINE  UCG-NEGATIVE
___ 03:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:15PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:15PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 03:15PM URINE  MUCOUS-RARE*
___ 03:10PM   GLUCOSE-96 UREA N-6 CREAT-0.7 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 03:10PM   estGFR-Using this
___ 03:10PM   ALT(SGPT)-10 AST(SGOT)-27 ALK PHOS-71 TOT 
BILI-<0.2
___ 03:10PM   ALBUMIN-4.5 CALCIUM-10.2 PHOSPHATE-3.8 
MAGNESIUM-1.9
___ 03:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 03:10PM   WBC-4.9 RBC-4.36 HGB-12.8 HCT-37.9 MCV-87 
MCH-29.4 MCHC-33.8 RDW-13.9 RDWSD-44.9
___ 03:10PM   NEUTS-54.2 ___ MONOS-7.9 EOS-1.4 
BASOS-0.4 IM ___ AbsNeut-2.67 AbsLymp-1.76 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.02
___ 03:10PM   PLT COUNT-238
 
Brief Hospital Course:
#Legal/Safety:
Patient was admitted to ___ on ___ and signed a 
Conditional Voluntary form. She remained on 15 minute checks and 
had monitored sharps access. She remained unit restricted given 
recent impulsive self-harm/suicide gesture of overdose by 
ingestion. Throughout the hospitalization, she remained in good 
behavioral control and without acute safety issues. She did not 
require any chemical/physical restraints.

#Major depressive disorder:
At the time of admission, patient’s presentation was notable for 
three weeks of labile mood (complaints of on/off 
euthymic/depressed days, with depressive mood not lasting more 
than one or two days), intermittent nights of sleep disturbance 
primarily with notable psychosocial stressors (such as exams), 
low energy, and four weeks of poor concentration. Exam was 
notable for mildly anxious-appearing affect, but grossly 
euthymic/reactive affect and future/goal oriented thought 
process. She denied persistently depressed mood lasting longer 
than 2 weeks, hopelessness, excessive guilt, or recurrent 
thoughts of death and was not thought to meet criteria for major 
depressive disorder at this time. However, given the potentially 
serious consequences of the impulsive overdose attempt by 
ingesting up to 20 tablets of sertraline in the setting of mood 
lability and anxiety, discussion was held with the patient and 
risks/benefits of lamotrigine was discussed, which she expressed 
an understanding of and being on-board with initiation. 

Patient was started on lamotrigine 25mg PO QHS on ___, which 
she tolerated without notable side effects. She reported 
improved mood and sleep since initiation of lamotrigine. By time 
of discharge, lamotrigine uptitrated to 50mg PO QHS which she 
tolerated with good response without concerning side effects. By 
time of discharge, patient had stable euthymic mood and affect, 
consistent lack of suicidal ideation, lack of desire to 
self-injure, improved sleep, increased energy, hopefulness, and 
had notable future/goal oriented thinking with actively engaging 
in disposition planning include re-entry to school. She also did 
not show signs of anhedonia, as she was engaged in the 
milieu/group therapy sessions, and also reported looking forward 
to getting back into performing with her ___ group once 
discharged.

#Sertraline overdose:
Patient reported having taken up to 20 tablets of sertraline 
25mg at the time of presentation. She was cleared by Toxicology 
in the ___ and was not found to have signs/symptoms necessitating 
medical interventions. Since admission to Deaconess 4, patient 
initially complained of mild weakness in her legs, tremulousness 
in her upper extremities, and lightheadedness. She was monitored 
closely for signs/symptoms of serotonin syndrome. After the 
initial night, patient no longer complained of weakness, 
tremulousness, or lightheadedness, and vitals remained stable. 

#Social:
After verbal consent was obtained from the patient, the 
treatment team contacted patient’s mother to update her 
regarding the presentation, reasons/indications for 
hospitalization, treatment goals/progress, and the disposition 
plan. Patient’s mother was on-board with the treatment plan and 
goals, as well as the disposition. Treatment team also worked 
cooperatively with patient’s ___ to schedule a re-entry 
date and appointment, with psychopharmacology bridging through 
the ___ until patient’s intake for the 
local psychopharmacologist/therapist referral. Patient was also 
provided with a primary care physician referral through ___ 
___ Associates as she did not have a local primary care 
physician. 

#Consent:
Risks and benefits of initiating lamotrigine for mood control 
was discussed with patient. She was provided with details of 
potential adverse effects, including nausea, drowsiness, 
fatigue, skin rash, as well as the importance of re-starting the 
medication if she were to discontinue for longer than 48 hours. 
Patient verbalized understanding of the risks/benefits and gave 
verbal consent for initiation.

#Risk assessment, prognosis:
At the time of admission, the patient was determined to be at an 
elevated risk of harm to self due to symptoms of an unspecified 
depressive disorder. Static risk factors that increase the risk 
of the patient’s potential for self-harm include history of 
self-injurious behavior by cutting, age of ___, single marital 
status, LGBTQ identity, and possible presence of a concurrent 
personality disorder. Modifiable risk factors present at the 
time of admission which were addressed throughout the hospital 
course include medication nonadherence (patient was initiated on 
lamotrigine and was compliant with daily doses), limited coping 
skills (was provided coping skills/techniques through daily 
individual/group therapy sessions, no established outpatient 
treatment in the local area (referral made for post-discharge 
follow-up), and impulsivity (patient was guided through a chain 
analysis regarding her impulsive action of overdosing on 
medications in a time of distress, was also given 
tools/techniques to avoid impulsive reactions in times of 
distress). At time of discharge, protective factors that help to 
mitigate the risk factors include help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, no 
irritability/agitation, reality testing ability, lack of 
suicidal ideation, no history of substance use disorder, no 
history of abuse, and strong social supports. With adherence to 
medications and post-discharge aftercare as recommended, the 
treatment team found the patient’s prognosis to be fair. 

 
Medications on Admission:
None.
 
Discharge Medications:
1.  LamoTRIgine 50 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 2 tablet(s) by mouth nightly 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Anxiety nos
borderline personality traits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___